### ISSUE TITLE
`congr_arg` unification failure

### ISSUE THREAD

**Issue by digama0** [leanprover/lean4#1436]
```lean
import Lean
open List Lean

example (l : List α) (h : length l = length l) : length (a::l) = length (a::l) :=
  congrArg (·+1) h
-- type mismatch
--   congrArg (fun a => a + 1) h
-- has type
--   length l + 1 = length l + 1 : Prop
-- but is expected to have type
--   length (a :: l) = length (a :: l) : Prop

elab:max "(" tm:term ":)" : term => Elab.Term.elabTerm tm none

example (l : List α) (h : length l = length l) : length (a::l) = length (a::l) :=
  (congrArg (·+1) h :)
-- type mismatch
--   congrArg (fun a => a + 1) h
-- has type
--   length l + 1 = length l + 1 : Prop
-- but is expected to have type
--   length (a :: l) = length (a :: l) : Prop

example (l : List α) (h : length l = length l) : length (a::l) = length (a::l) :=
  have := congrArg (·+1) h; this
-- type mismatch
--   this
-- has type
--   (fun a => a + 1) (length l) = (fun a => a + 1) (length l) : Prop
-- but is expected to have type
--   length (a :: l) = length (a :: l) : Prop

example (l : List α) (h : length l = length l) : length (a::l) = length (a::l) := by
  have := congrArg (·+1) h; exact this -- ok
```
This is a recent regression extracted from mathlib4. It could be related to `elabAsElim`? `congrArg` is notable for being a theorem where the standard "backward" elaboration heuristic fails; the old lean 3 trick of using `(e : _)` to hide the expected type doesn't work anymore, but I've simulated it with a `(e :)` notation in this example.

**Comment by leodemoura** [comment]
> the old lean 3 trick of using (e : _) to hide the expected type doesn't work anymore

This trick does not work because Lean 4 may postpone the elaboration of subterms when the expected type is not known.
Note that the notation `( .. :)`  may not achieve the desired effect. Example:
```lean
def f (x : Nat) := x

example : Nat :=
  f (.zero :) -- Works.
```
The elaboration of `.zero` is postponed, and eventually Lean finds out that its type is a `Nat`.
The following variant uses the `withSynthetize` to force any pending problems to be resolved before succeeding.
```lean
open Lean in
elab:max "(" tm:term ":)" : term => Elab.Term.withSynthesize <| Elab.Term.elabTerm tm none

example : Nat :=
  f ( .zero :) -- Error
```

**Comment by digama0** [comment]
I don't think we necessarily want to completely hide the expected type when using `(e :)`; rather, we want `e` to be first elaborated without the expected type and then the resulting type should be unified against the expected type. The main issue is that we want to prevent the `f x =?= g y :- f =?= g, x =?= y` heuristic from triggering.

In the presence of postponement, I'm not exactly sure whether this does the trick. What does `by have' := e; exact this` do? It seems to have approximately the right behavior, except that it gets postponed after everything because it's a `by` block.

**Comment by leodemoura** [comment]
> What does by have' := e; exact this do?

It is expanded to
```lean
by refine_lift' have := e; ?_
   exact this
```
`refine_lift'` is a `refine` variant that disables implicit lambdas and makes sure the hole for `?_` is the first one in the list of subgoals for the `refine`.
The `refine` tactics force pending elaboration problems to be resolved before succeeding. So, it is essentially doing what `withSynthesize` did in the example above.
